US06274119B1
In a 3 L two-neck round bottom flask, equipped with a reflux condenser and a dropping funnel, 2 L of hydrochloric acid (d=1.16) were stirred and heated to boiling. A solution of 6.06 g (30.3 mmol) of 1-(6-methoxy-2-naphthyl)-1-ethanone (prepared as described in Arsenijevic et al., Org. Synth. Coll. 6:34 (1988), the disclosure of which is incorporated herein by reference) in a minimum amount of dichloromethane was added, and the mixture was stirred and heated at reflux for 2 hours. The hot solution was filtered through a mineral wool plug to remove oily residue. The solid that separated after cooling was filtered on a glass frit and dissolved in 130 mL of ethyl acetate. The solution was washed with brine, dried with anhydrous magnesium sulfate and evaporated to give 5 g (89%) of 1-(6-hydroxy-2-naphthyl)-1-ethanone.

reactant | hydrochloric acid | 2 L | Cl | ClH
reactant | 1-(6-methoxy-2-naphthyl)-1-ethanone | 30.3 mmol, 6.06 g | COC=1C=C2C=CC(=CC2=CC1)C(C)=O | C13H12O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(6-hydroxy-2-naphthyl)-1-ethanone | 5 g, 89% | OC=1C=C2C=CC(=CC2=CC1)C(C)=O | C12H10O2
